Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
abdominal pain, diarrhea
 
Major Surgical or Invasive Procedure:
Monitor BP; has previously been on amlodipine and long acting
nitrates. She was restarted on amlodipine on ___.
 
History of Present Illness:
___ year-old woman w/ PMH of severe idiopathic axonal 
sensorimotor polyneuropathy previously responsive to 
plasmapheresis, HTN, DMII, HLD, and depression who is admitted 
to the Medicine service with complaints of abdominal pain and 
diarrhea. 

Her symptoms started on ___.  She had diarrhea, lower abd 
pain and a headache.  The headache has waxed and waned and is 
described as a dull frontal headache.  She's had some nausea 
with emesis as well.  These symptoms prompted her to present to 
the ED on ___.  She had a full work up including CT A/P that 
showed pandiverticulosis but no evidence for acute abnormalities 
accounting for her discomfort.  Per ED note, her headache 
resolved during that stay.  She was discharged to home.

Today, she re-presented to the ED noting that she continued to 
feel poorly with nausea and emesis.  She's not had any further 
diarrhea.  The abdominal pain is described as lower (in the 
suprapubic region).  There are no exacerbating or relieving 
factors that she's noted.  She mostly complains of pain in her 
lateral left leg that she says is chronic but worse than normal. 
 She denies any trauma or falls.  

In the ED: vital signs were: 98.8  72  185/85  18  92-98% RA.  
She received IV ketorolac, ondansetron, hydromorphone as well as 
oxcodone and tramadol.  LFTs were remarkable for: AST 44, ALT 
26, AP 119, TotBil 0.8, CPK of 950.
Patient denies any chest pain or pressure presently though says 
about a month ago she had some that lasted 2 days, that she took 
one SL nitroglycerin for it and 90 min later the pain resolved.

Presently, she has no nausea, the pain in the abd and leg is 
better after "whatever they gave me in the ED" and she notes 
only a mild dull headache.  No new weakness.  No fevers, chills, 
shortness of breath.  No lymphadenopathy, no dysuria.

She believes she's caught a "bug" that has been going around her 
living facility noting that numerous staff and residents have 
been sick.  She however goes on to say she does not know what 
symptoms these folks have had.

Review of Systems:  
(+) as per HPI above
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, BRBPR, melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
From OMR - confirmed with patient

PAST MEDICAL HISTORY:  
- Severe idiopathic axonal sensorimotor polyneuropathy  
* initial sx in ___ (weakness and sensory loss in legs -->  
abdomen --> arms)  
* responsive to plasmapheresis (last sessions ___  

* prior evaluation (per Dr. ___ dated ___:  
- Sural nerve biopsy: marked loss of large and small myelinated  

axons  
- Vitamin B12 deficiency  
- HTN  
- DM (type II)  
- GERD  
- Depression  
- Diverticulosis  
.  
PAST SURGICAL HISTORY:  
- c-section x 2  
- hysterectomy for leiomyomata  
- left breast lumpectomy  
- bilateral knee replacements  
- portacath (since removed)  
- surgery related to recent abdominal hematoma related to sc  
heparin  
 
Social History:
___
Family History:
from OMR
- negative for neurological conditions
- positive for DM (mother, brother), malignancy (mother - liver, 
cervical, colon; father - lung), CAD (mother)

 
Physical Exam:
Admission:
GENERAL: Pleasant, well appearing obese woman in NAD  
VS: 98.2  162/98  78  18  100% RA
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus.  + lipoma behind right ear, non-tender
PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD.  
CARDIAC: Regular rate.  HS distant. 
LUNGS: CTAB, good air movement biaterally.  
ABDOMEN: NABS. Soft. + TTP suprapubic pain and also diffusely.  
No RT/guarding. 
EXTREMITIES: No edema or calf pain.  FROM of left hip.  No 
reproducible tenderness over left lateral thigh btwn knee and 
hip where patient notes pain. 
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. ___ and 
speech appropriate. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant 


Discharge: 
Afebrile  152/75  P65  R18  95RA
GEN: comfortable, NAD
RESP: CTA B
CV: RRR.
Abd: obese. +NABS. Soft, nt/nd.

 
Pertinent Results:
ECG Study Date of ___  4:47:06 ___ 
Sinus rhythm. Biatrial abnormality. Cannot exclude prior 
inferior-posterior myocardial infarction. Compared to the 
previous tracing of ___ multiple abnormalities as described 
are new. 
 
ECG Study Date of ___  8:34:02 AM 
Sinus rhythm. Compared to the previous tracing there is no 
significant change. 
 

___ 09:30AM BLOOD WBC-12.4* RBC-6.09* Hgb-18.4* Hct-52.6* 
MCV-86 MCH-30.2 MCHC-35.0 RDW-13.8 Plt ___
___ 06:40AM BLOOD WBC-8.9 RBC-5.45* Hgb-16.5* Hct-48.3* 
MCV-89 MCH-30.4 MCHC-34.2 RDW-14.2 Plt ___
___ 09:30AM BLOOD Glucose-115* UreaN-17 Creat-0.9 Na-130* 
K-4.0 Cl-88* HCO3-28 AnGap-18
___ 06:40AM BLOOD Glucose-108* UreaN-14 Creat-0.9 Na-136 
K-3.8 Cl-96 HCO3-30 AnGap-14
___ 09:30AM BLOOD ALT-26 AST-44* CK(CPK)-950* AlkPhos-119* 
TotBili-0.8
___ 06:40AM BLOOD ALT-22 AST-32 CK(CPK)-411* AlkPhos-95 
TotBili-0.8
___ 09:30AM BLOOD Lipase-32
___ 10:20AM BLOOD CK-MB-9 cTropnT-0.03*
___ 06:40AM BLOOD CK-MB-5
___ 06:40AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.1
___ 09:30AM BLOOD Albumin-4.6
___ 01:54PM URINE Color-Straw Appear-Clear Sp ___
___ 01:54PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with functional impairment (WC bound) 
secondary to severe idiopathic neuropathy (treated with yearly 
plasmapheresis) admitted with 4 days of lower abdominal pain, 
diarrhea ___, none since, no dysuria, no fevers, + dull 
headache, some nausea and vomiting (last episode of emesis 
___.  She has been afebrile and CT scan was reassuring.  Her 
LFTs were slightly elevated on presentation but normalized after 
24 hours.  Her CPK was elevated on admission but has come down 
with hydration.  She notes intermittent CP that does not sound 
anginal (not exertional, will last x hours to days, then 
resolves); EKGs here have been without ischemic changes.  
Troponins and CPK-MBs have been flat.  She has been treated 
supportively for a viral gastroenteritis.  Her diet was slowly 
advanced which she tolerated well.  Her nausea and abdominal 
pain improved, and was nearly resolved by the time of discharge.

Acute Issues:
## Probable acute viral syndrome
## Nausea, vomiting, dehydration, diarrhea
## Abnormal LFTs
--Improved with supportive care

## L thigh pain
## Elevated CPK
Suspect patient's left thigh pain was likely due to immobility, 
and inadequate pressure relief causing underlying muscle damage, 
as evidenced by CPK elevation on admission to 950.  CPK 
downtrended prior to discharge.  Her pain was helped by cool 
packs.

## Hypertension - histoy of this, not on antihtn medications at 
time of admission, but quite hypertensive in the ED and still 
hypertensive on the gen med floor.  Suspect component of pain 
contributing.  She was started on low-dose amlodipine during the 
admission, which may be uptitrated as needed.

Chronic Issues:
## Idiopathic neuropathy
--continued chronic meds. F/u with Dr. ___ as needed

## Depression
--continue chronic meds (gabapentin, buproprion, tramadol, 
sertraline)

## B12 deficiency
--qmonthly injection

## CAD with h/o MI after plasphapheresis
## hypercholesterolemia
--continue ASA, statin

Transitional Issues:
--Pt reported difficult mobility, and will be discharged to 
rehab for Physicial Therapy.  Pt is also developing sacral 
pressure ulcers, and should focus on frequent re-positioning.
--Follow up blood pressure control and titrate medications as 
needed.
--Please note EKG report in results section. Consider cardiology 
referral as an outpatient, if appropriate.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 15 mL PO TID 
2. Acetaminophen 1000 mg PO DAILY 
3. Gabapentin 100 mg PO BID 
4. BuPROPion 100 mg PO BID 
5. Lorazepam 0.5 mg PO Q6H:PRN as needed 
6. bisacodyl *NF* 5 mg Oral once a day as needed for 
constipation 
7. Docusate Sodium 100 mg PO BID 
8. Glycerin Supps ___AILY:PRN as needed 
9. magnesium hydroxide *NF* unknown  Oral as needed 
10. Polyethylene Glycol 17 g PO BID 
11. psyllium seed (with dextrose) *NF* 1 (one) Powder  Oral 
Daily 
12. Simvastatin 20 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Nitroglycerin SL 0.4 mg SL ASDIR 
15. TraMADOL (Ultram) 50 mg PO DAILY 
16. Aspirin 81 mg PO DAILY 
17. Sertraline 100 mg PO DAILY 
18. Vitamin D Dose is Unknown  PO DAILY 
19. Cyanocobalamin Dose is Unknown  IM/SC MONTHLY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. bisacodyl *NF* 5 mg Oral once a day as needed for 
constipation 
4. BuPROPion 100 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Gabapentin 100 mg PO BID 
7. Lactulose 15 mL PO TID 
8. Lorazepam 0.5 mg PO Q6H:PRN as needed 
9. Multivitamins 1 TAB PO DAILY 
10. Polyethylene Glycol 17 g PO BID 
11. Sertraline 100 mg PO DAILY 
12. Simvastatin 20 mg PO DAILY 
13. TraMADOL (Ultram) 50 mg PO DAILY 
14. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
15. Cyanocobalamin 0 mcg IM/SC MONTHLY 
16. Glycerin Supps ___AILY:PRN as needed 
17. magnesium hydroxide *NF* 0 mg ORAL AS NEEDED 
18. Nitroglycerin SL 0.4 mg SL ASDIR 
19. psyllium seed (with dextrose) *NF* 1 (one) Powder  Oral 
Daily 
20. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
## Nausea, vomiting, dehydration, diarrhea
## Elevated CPK
## Abnormal LFTs
## Idiopathic neuropathy
## Hypertension - histoy of this, not on antihtn medications, 
but
quite hypertensive in the ED and periodically hypertensive on 
the
gen med floor.  Suspect component of pain contributing.
## Depression
## B12 deficiency
## CAD with h/o MI after plasphapheresis
## hypercholesterolemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital with some nausea, vomiting, 
diarrhea and abdominal pain.  You developed these symptoms which 
were similar to what some of the other folks at ___ 
___ had, so perhaps it was a viral syndrome.  You had a CT 
scan that was reassuring.  You improved with supportive care but 
were still quite tired after the past week's illness so are 
being discharge to ___ rehab for some ongoing care and 
support.
 
Followup Instructions:
___